US06852154B2
Ethyl benzoylacetate is reacted with 1-methylamino-4-bromoanthraquinone in a solvent to obtain 1-benzoyl-6-bromo-2,7-dihydro-3-methyl-2,7-dioxo-3H-dibenzo[f,ij]isoquinoline.

reactant | Ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 1-methylamino-4-bromoanthraquinone | CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C15H10BrNO2
product | 1-benzoyl-6-bromo-2,7-dihydro-3-methyl-2,7-dioxo-3H-dibenzo[f,ij]isoquinoline | C(C1=CC=CC=C1)(=O)C=1C(N(C2=C3C(C(C4=C(C13)C=CC=C4)=O)=C(C=C2)Br)C)=O | C24H14BrNO3
